US04071625
A solution of 5α,19-dihydroxy-6β-methylandrostane-3,17-dione bis ethylenektal in methanol containing aqueous sulfuric acid is heated to its reflux temperature. The solvent is subsequently removed. Crystallization of the residue from an acetone-hexane solution yields 19-hydroxy-6α-methyl-4-androstene-3,17-dione.

reactant | 5α,19-dihydroxy-6β-methylandrostane-3,17-dione | O[C@]12[C@@H](C[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@]2(CCC(C1)=O)CO)=O)C | C20H30O4
solvent | methanol | CO | CH4O
product | 19-hydroxy-6α-methyl-4-androstene-3,17-dione | OC[C@]12CCC(C=C1[C@H](C[C@H]1[C@@H]3CCC([C@@]3(C)CC[C@H]21)=O)C)=O | C20H28O3
